US04259334
(b) 1-[2-(2,6-Dimethyl-phenoxy)ethyl]piperazine
To methylethylketone (1 liter) are added 2-(2,6-dimethylphenoxy)-1-bromo-ethane (132 g), sodium iodide (85 g), potassium carbonate (80 g) and piperazine (200 g). The mixture is refluxed for 24 hours, with stirring. After cooling, the mixture is filtered and then washed with 3×300 ml benzene. After evaporation of the benzene, the piperazine derivative is distilled; b.p. 25 mm Hg=190° C.

reactant | 2-(2,6-dimethylphenoxy)-1-bromo-ethane | 132 g | CC1=C(OCCBr)C(=CC=C1)C | C10H13BrO
reactant | sodium iodide | 85 g | [I-].[Na+]
reactant | potassium carbonate | 80 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine | 200 g | N1CCNCC1 | C4H10N2
solvent | methylethylketone | 1 liter | CC(=O)CC | C4H8O
product | 1-[2-(2,6-Dimethyl-phenoxy)ethyl]piperazine | CC1=C(OCCN2CCNCC2)C(=CC=C1)C | C14H22N2O
